US05516788
i) 4-Hydrazino-3-methylanisole hydrochloride
33 g (0.19 mol) 4-methoxy-2-methylaniline hydrochloride was suspended in 100 ml (6M) hydrochloric acid under argon atmosphere. The mixture was cooled to +5° C. and a solution of 13.1 g (0.19 mol) NaNO2 in 35 ml water was added dropwise at such rate that the temperature was kept below +5° C. After the addition was completed the solution was stirred for 30 min at +5° C. 101.7 g (0.58 mol) Na2S2O4 was dissolved in 500 ml wager at +5° C. and the solution was poured into the reaction mixture and stirred for 30 min. 250 ml diethyl ether was added and made basic with NaOH (10M) until pH 9. The phases were separated and the water phase extracted with diethyl ether. The combined organic phases were washed with NaCl(aq) and dried with Na2SO4. The ether phase was filtered through celite. A saturated solution of HCl(g) in ether was added to the solution containing the product and the hydrochloride salt of the hydrazine precipitated. The crystals were collected on a suction filter and washed with diethyl ether and chloroform. 29.5 g (82%) of the product was isolated.

reactant | 4-methoxy-2-methylaniline hydrochloride | 0.19 mol, 33 g | Cl.COC1=CC(=C(N)C=C1)C
reactant | NaNO2 | 0.19 mol, 13.1 g | N(=O)[O-].[Na+]
reactant | Na2S2O4 | 0.58 mol, 101.7 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | NaOH | 10M | [OH-].[Na+]
solvent | hydrochloric acid | 6M, 100 ml | Cl | ClH
solvent | water | 35 ml | O | H2O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 4-Hydrazino-3-methylanisole hydrochloride | 29.5 g, 82% | Cl.N(N)C1=C(C=C(C=C1)OC)C | InChI=1S/C8H12N2O.ClH/c1-6-5-7(11-2)3-4-8(6)10-9;/h3-5,10H,9H2,1-2H3;1H
